US04992591
Preparation of (±)-(1RS)-1-(4-Chloro-3-methoxyphenyl)-3,4-dihydro-2(1H)-naphthalenone (7)
Charge an oven dried, argon flushed 25-mL two-necked round bottomed flask equipped with a stirring bar with β-tetralone (1.3095 grams, 8.9575 mmoles) and 5 mL dry dimethylformamide. Cool to 0° C. with an ice bath, add sodium hydride (0.4299 grams, 8.9575 mmoles, 50% oil dispersion) and stir for 25 minutes. Filter the solution through a 5 mL syringe equipped with a bed of celite (dried in an oven) via a double-ended needle into an oven dried, argon flushed 25-mL round bottomed flask equipped with a stirring bar and reflux condenser which had been charged with 4-bromo-2-methoxy-1-chlorobenzene (1.5871 grams, 7.166 mmoles), palladium acetate (0.0079 grams 0.0350 mmoles) and tri(ο-tolyl)phosphine (0.0213 grams, 0.070 mmoles). Heat at about 125° C. (oil bath) for 21 hours, cool to RT and add ethyl acetate and 2N HCl. Separate the layers, extract the aqueous layers with two portions of ethyl acetate, wash the combined organic layers with saturated sodium bicarbonate solution followed by saturated salt solution, dry over magnesium sulfate and concentrate using a Buchi rotavapor to produce the named product.

reactant | β-tetralone | 8.9575 mmoles, 1.3095 grams | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | sodium hydride | 8.9575 mmoles, 0.4299 grams | [H-].[Na+]
reactant | 4-bromo-2-methoxy-1-chlorobenzene | 7.166 mmoles, 1.5871 grams | BrC1=CC(=C(C=C1)Cl)OC | C7H6BrClO
reactant | HCl | 2N | Cl | ClH
catalyst | palladium acetate | 0.0350 mmoles, 0.0079 grams | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (±)-(1RS)-1-(4-Chloro-3-methoxyphenyl)-3,4-dihydro-2(1H)-naphthalenone | ClC1=C(C=C(C=C1)C1C(CCC2=CC=CC=C12)=O)OC | C17H15ClO2
